US07838518B2
Ethyl indole-3-acetate (4 g, 19 mmol, 98%) was taken up in acetic acid (40 cm3) and sodium cyanoborohydride (4 g, 63 mmol) was added. The reaction was stirred at room temperature for 2 h, then diluted with aqueous sodium hydroxide until basic. The aqueous mixture was extracted with ethyl acetate and the organic layer was separated, dried and concentrated to dryness under reduced pressure. The solid obtained was taken up in dichloromethane and chromatographed on silica eluting with dichloro-methane with increasing volumes of methanol. The product containing fractions were combined and concentrated to yield ethyl-2,3-dihydro-indole-3-acetate as a solid (3 g, 15 mmol, 78%).

reactant | Ethyl indole-3-acetate | 19 mmol, 4 g | N1C=C(C2=CC=CC=C12)CC(=O)OCC | C12H13NO2
reactant | sodium cyanoborohydride | 63 mmol, 4 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 40 cm3 | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl-2,3-dihydro-indole-3-acetate | 15 mmol, 3 g, 78% | C(C)OC(CC1CNC2=CC=CC=C12)=O | C12H15NO2
